US06844345B2
e) (4-Bromo-2-{3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-prop-1-ynyl}-5-methyl-phenyl)-carbamic acid methyl ester
To a solution of 3.70 g (4-bromo-2-iodo-5-methyl-phenyl)-carbamic acid methyl ester and 0.070 g bis-triphenylphosphine palladium dichloride and 0.038 g cuprous iodide in 25 mL triethylamine was added 2.38 g dimethyl (2-propynyloxy)(1,1,2-trimethylpropyl)-silane and the mixture was heated 2 h at reflux. The reaction mixture was partitioned between water and ethyl acetate. The phases were separated and the organic phase was washed with 1N hydrochloric acid, sodium bicarbonate and brine, dried with magnesium sulfate and purified by chromatography on silica gel with 4:1 hexane:ethyl acetateto yield 1.92 g of the title compound as a light brown oil. MS: M+NH4+=457.0 M+Na+=462.2.

reactant | (4-bromo-2-iodo-5-methyl-phenyl)-carbamic acid methyl ester | 3.70 g | COC(NC1=C(C=C(C(=C1)C)Br)I)=O | C9H9BrINO2
reactant | dimethyl (2-propynyloxy)(1,1,2-trimethylpropyl)-silane | 2.38 g | C[Si](C(C(C)C)(C)C)(OCC#C)C | C11H22OSi
solvent | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
product | (4-Bromo-2-{3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-prop-1-ynyl}-5-methyl-phenyl)-carbamic acid methyl ester | COC(NC1=C(C=C(C(=C1)C)Br)C#CCO[Si](C(C(C)C)(C)C)(C)C)=O | C20H30BrNO3Si
